US08476197B2
To a solution of 3-chloro-3-(2-chloropyridin-3-yl)acrylonitrile (1.4 g, 7.03 mmol, 1 eq.) in 15 ml of acetonitrile was added 2-ethylcyclopropanamine hydrochloride (1.02 g, 8.44 mmol, 1.2 eq.) followed by triethylamine (TEA) (1.06 g, 10.55 mmol, 1.5 eq.). The reaction was microwaved (130° C., 2000 s, fixed hold, high absorption) and the solvent evaporated. The residual oil was triturated in ethyl acetate and the white solid removed by filtration. After concentration under vacuum, the residual oil was subjected to column chromatography to give 3-(2-chloropyridin-3-yl)-3-[(2-ethylcyclopropyl)amino]acrylonitrile (0.998 g, 51% yield).

reactant | 3-chloro-3-(2-chloropyridin-3-yl)acrylonitrile | 7.03 mmol, 1.4 g, 1 eq. | ClC(=CC#N)C=1C(=NC=CC1)Cl | C8H4Cl2N2
reactant | 2-ethylcyclopropanamine hydrochloride | 8.44 mmol, 1.02 g, 1.2 eq. | Cl.C(C)C1C(C1)N
reactant | triethylamine | 10.55 mmol, 1.06 g, 1.5 eq. | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 15 ml | C(C)#N | C2H3N
product | 3-(2-chloropyridin-3-yl)-3-[(2-ethylcyclopropyl)amino]acrylonitrile | 0.998 g, 51% yield | ClC1=NC=CC=C1C(=CC#N)NC1C(C1)CC | C13H14ClN3
